US04521419
1,2,3,4-tetrahydro-11-oxo-11H-pyrido[2,1-b]quinazoline-8-carboxylic acid, methyl ester (2.5 g) was reacted with 2-methoxy-benzaldehyde (2.6 g) in tert.butanol (75 ml) in the presence of potassium tert.butylate (4.3 g) under stirring at reflux temperature for 8 hours. After cooling the solution was concentrated in vacuo to a small volume and the precipitate was filtered and washed with little methanol and then dissolved in water containing NaHCO3 : the solution was acidified with 23% HCl to pH=4 and the precipitate was filtered and washed with water until neutral. Crystallization from acetone gave 1.1 g of 4-(2-methoxy-benzylidene)-1,2,3,4-tetrahydro-11-oxo-11H-pyrido[2,1-b]quinazoline-8-carboxylic acid, m.p. 300° C. (dec.), N.M.R. (CDCl3 -CF3COOD) δp.p.m.: 1.93 (m) (2H,C-2 protons), 2.84 (m) (4H, C-1 and C-3 protons), 3.81 (s) (3H, --OCH3), 6.80-7.50 (m) (4H, phenyl protons), 7.70 (bs) (1H, =CH--), 8.17 (d) (1H, C-6 proton), 8.69 (dd) (1H, C-7 proton), 9.73 (d) (1H,C-9 proton).

reactant | 1,2,3,4-tetrahydro-11-oxo-11H-pyrido[2,1-b]quinazoline-8-carboxylic acid, methyl ester | 2.5 g | O=C1N2C(=NC=3CCCCC13)C=CC(=C2)C(=O)OC | C14H14N2O3
reactant | 2-methoxy-benzaldehyde | 2.6 g | COC1=C(C=O)C=CC=C1 | C8H8O2
solvent | tert.butanol | 75 ml | C(C)(C)(C)O | C4H10O
product | 4-(2-methoxy-benzylidene)-1,2,3,4-tetrahydro-11-oxo-11H-pyrido[2,1-b]quinazoline-8-carboxylic acid | 1.1 g | COC1=C(C=C2CCCC=3C(N4C(=NC23)C=CC(=C4)C(=O)O)=O)C=CC=C1 | C21H18N2O4
